US05635527
Ethyl 5-cyanofuro[2,3-b]pyridine-2-carboxylate (773 mg, 4.14 mmol) was dissolved in a mixed solvent of pyridine (40 ml) and triethylamine (8 ml), and a hydrogen sulfide gas was blown in for 10 minutes. The mixture was stirred at room temperature for 14 hours. The solvent was distilled away from the reaction mixture under reduced pressure to give ethyl 5-thiocarbamoylfuro[2,3-b]pyridine-2-carboxylate as a yellow solid. Acetone (80 ml) and methyl iodide (8.0 ml) were added and the mixture was refluxed under heating for one hour. Low boiling matters were distilled away from the reaction mixture under reduced pressure to give ethyl 5-[(1-methylthio)-iminomethyl]furo[2,3-b]pyridine-2-carboxylate. Methanol (80 ml) and ammonium acetate (694 mg, 9.00 mmol) were added and the mixture was refluxed under heating for 3.5 hours. Low boiling matters were distilled away from the reaction mixture under reduced pressure and the residue was purified by silica gel column chromatography (chloroform/methanol=97/3-4/1) to give 2.05 g of ethyl 5-amidinofuro[2,3-b]pyridine-2-carboxylate hydrochloride as a yellow solid (69% in 3 steps).

reactant | Ethyl 5-cyanofuro[2,3-b]pyridine-2-carboxylate | 4.14 mmol, 773 mg | C(#N)C=1C=C2C(=NC1)OC(=C2)C(=O)OCC | C11H8N2O3
reactant | hydrogen sulfide | S | H2S
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 8 ml | C(C)N(CC)CC | C6H15N
product | ethyl 5-thiocarbamoylfuro[2,3-b]pyridine-2-carboxylate | C(N)(=S)C=1C=C2C(=NC1)OC(=C2)C(=O)OCC | C11H10N2O3S
